US07169797B2
N-(2,6-dihydroxyphenyl)acetamide
A mixture of 2-nitroresorcinol (1.0 g, 6.45 mmol) and 10% Pd—C (100 mg) in methanol (15 mL) was stirred under an atmosphere of hydrogen at ambient temperature for 4 hours. The reaction mixture was filtered and concentrated to get desired aniline. The aniline was then dissolved in dichloromethane (15 mL). Triethylamine (1.8 mL, 12.9 mmol) was added, followed by acetyl chloride (1.38 mL, 19.35 mmol). The reaction mixture was stirred at ambient temperature for 1 hour, and added 20 mL 1N NaOH and methanol (20 mL). After 10 minutes, the mixture was concentrated and taken in ethyl acetate and 1N HCl. The organic phase was washed with brine, dried (MgSO4), filtered and concentrated to provide titled compound. MS (ESI (+)) m/e 168(M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 9.31(s, 2H), 6.86 (t, J=8.1 Hz, 1H), 6.34 (d, J=8.1 Hz, 2H), 2.11(s, 3H).

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | Triethylamine | 12.9 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 19.35 mmol, 1.38 mL | C(C)(=O)Cl | C2H3ClO
reactant | NaOH | 1N, 20 mL | [OH-].[Na+]
reactant | methanol | 20 mL | CO | CH4O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-(2,6-dihydroxyphenyl)acetamide | OC1=C(C(=CC=C1)O)NC(C)=O | C8H9NO3
